US09212348B2
Synthesis of ethyl 5-hydroxy-3-isopropyl-1-(2-phenylpropan-2-yl)-1H-pyrazole-4-carboxylate (Compound No. 4-27 of the Present Invention)
3-Isopropyl-1-(2-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one (1.22 g, 5.00 mmol) and calcium hydroxide (435 mg, 7.50 mmol) were suspended in dioxane (20 mL), heated to 45° C. and stirred for 1 hour. After the stirring, the reaction solution was allowed to cool to room temperature, and after dropwise addition of ethyl chloroformate (597 mg, 5.50 mmol), stirred at 90° C. for 6 hours. After completion of the reaction, the resulting light brown suspension was poured into ice-cold 3 M hydrochloric acid and extracted with chloroform (20 mL×5). The resulting organic layer was washed with 0.06 M hydrochloric acid (50 mL×2), dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by intermediate pressure silica gel column chromatography (silica gel 40 g, ethyl acetate:hexane=1:19 to 1:9) to give 650 mg of the desired product as a yellow oil.

reactant | 3-Isopropyl-1-(2-phenylpropan-2-yl)-1H-pyrazol-5(4H)-one | 5.00 mmol, 1.22 g | C(C)(C)C1=NN(C(C1)=O)C(C)(C)C1=CC=CC=C1 | C15H20N2O
reactant | calcium hydroxide | 7.50 mmol, 435 mg | [OH-].[Ca+2].[OH-]
reactant | ethyl chloroformate | 5.50 mmol, 597 mg | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | ethyl 5-hydroxy-3-isopropyl-1-(2-phenylpropan-2-yl)-1H-pyrazole-4-carboxylate | 650 mg | OC1=C(C(=NN1C(C)(C)C1=CC=CC=C1)C(C)C)C(=O)OCC | C18H24N2O3
